US07915250B2
1,1-Dimethylethyl 3-ethylideneazetidine-1-carboxylate (506 mg, 2.76 mmol), and 4-methylmorpholine N-oxide (1.04 g, 8.89 mmol) were dissolved in acetone/water (4:1; 30 mL) and osmium tetroxide (2.5 wt. % in t-butanol; 0.2 mL) was added. The solution was stirred at ambient for 5 days, then was quenched with saturated sodium bisulfate (2 mL) and concentrated in vacuo. The residue was partitioned between ethyl acetate and brine. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (silica gel, ethyl acetate) gave 1,1-dimethylethyl 3-hydroxy-3-(1-hydroxyethyl)azetidine-1-carboxylate (375 mg, 1.73 mmol, 63% yield): 1H NMR (400 MHz, CDCl3): 4.00-3.77 (m, 5H), 2.65 (br s, 1H), 1.86, (br s, 1H), 1.44 (s, 9H), 1.25 (d, 3H).

reactant | 1,1-Dimethylethyl 3-ethylideneazetidine-1-carboxylate | 2.76 mmol, 506 mg | C(C)=C1CN(C1)C(=O)OC(C)(C)C | C10H17NO2
reactant | 4-methylmorpholine N-oxide | 8.89 mmol, 1.04 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetone water | 30 mL | CC(=O)C.O
catalyst | osmium tetroxide | 0.2 mL | [Os](=O)(=O)(=O)=O
product | 1,1-dimethylethyl 3-hydroxy-3-(1-hydroxyethyl)azetidine-1-carboxylate | 1.73 mmol, 375 mg, 63% yield | OC1(CN(C1)C(=O)OC(C)(C)C)C(C)O | C10H19NO4
